US07727988B2
1-(3,3-Dimethoxy-propyl)-5-(2-fluoro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione (Prep116)
A mixture of 5-(2-fluoro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep 15, 667 mg, 2.59 mmol), and K2CO3 (358 mg, 2.59 mmol) in DMF (25 ml) was stirred 30 minutes at room temperature. Then 90% 3-Bromo-1,1dimethoxy-propane (432 μl, 2.85 mmol) was added in three portions during 3 days. Solvent was then removed under vacuum at 40° C. and the residue washed with ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (98-2-0.2) to give 291 mg of the title compound as a white solid (35% yield).

reactant | 5-(2-fluoro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride | 2.59 mmol, 667 mg | Cl.FC1=NC(=CC=C1C=1C(NC(NC1)=O)=O)C
reactant | K2CO3 | 2.59 mmol, 358 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Bromo-1,1dimethoxy-propane | 2.85 mmol, 432 μl | BrCCC(OC)OC | C5H11BrO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(3,3-Dimethoxy-propyl)-5-(2-fluoro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione | 291 mg, 35% yield | COC(CCN1C(NC(C(=C1)C=1C(=NC(=CC1)C)F)=O)=O)OC | C15H18FN3O4
